US04563306
(3S)-1-Oxo-7-amino-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (850 mg) is dissolved in a mixture of dioxane (8.5 ml), water (4.2 ml) and N-sodium hydroxide (4.2 ml). Di-tert.-butyl dicarbonate (1.1 g) is added dropwise to the solution at 10°-15° C., and the mixture is stirred at room temperature overnight. The mixture is distilled under reduced pressure to remove dioxane, and the residue is washed with ethyl acetate, adjusted to pH 2 with N--H2SO4 and extracted with ethyl acetate. The extract is washed with water, dried and then distilled under reduced pressure to remove the solvent. Ethyl acetate is added to the residue and the crystals are colltected by filtration, whereby (3S)-1-oxo-7-tert.-butyloxycarbonylamino-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (730 mg) is obtained as crystals.

reactant | (3S)-1-Oxo-7-amino-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 850 mg | O=C1N[C@@H](CC2=CC=C(C=C12)N)C(=O)O | C10H10N2O3
reactant | Di-tert.-butyl dicarbonate | 1.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 8.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 4.2 ml | O | H2O
product | (3S)-1-oxo-7-tert.-butyloxycarbonylamino-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 730 mg | O=C1N[C@@H](CC2=CC=C(C=C12)NC(=O)OC(C)(C)C)C(=O)O | C15H18N2O5
